US08349826B2
20.i. [2-(6-methoxy-3-nitro-pyridin-2-ylamino)-ethyl]carbamic acid tert-butyl ester
Starting from 2-chloro-6-methoxy-3-nitropyridine (5.0 g; commercial) and N-Boc-ethylenediamine (4.15 mL; commercial), and proceeding in analogy to Example 17, step 17.i, the title compound was obtained as a yellow solid (4.79 g; 59% yield).

reactant | 2-chloro-6-methoxy-3-nitropyridine | 5.0 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | N-Boc-ethylenediamine | 4.15 mL | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
product | [2-(6-methoxy-3-nitro-pyridin-2-ylamino)-ethyl]carbamic acid tert-butyl ester | 59% yield | C(C)(C)(C)OC(NCCNC1=NC(=CC=C1[N+](=O)[O-])OC)=O | C13H20N4O5
